US07375226B2
b) 8-Trifluoromethoxy-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole
To a suspension of Lithium Aluminium Hydride (0.68 g) in diethylether (70 mL) was added portionwise 1-cyanomethyl-5-trifluoromethoxy-1H-indole-2-carboxylic acid ethyl ester (2.28 g). The reaction mixture was then stirred for 16 hours at reflux. The solution was then slowly poured into a saturated solution of sodium-potassium tartrate. The mixture was then extracted with ethyl acetate 3 times. The combined organic phases were then washed with brine, dried with magnesium sulfate, concentrated in vacuo and purified by column chromatography to yield the desired compound (0.83 g, 45%).

reactant | Lithium Aluminium Hydride | 0.68 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-cyanomethyl-5-trifluoromethoxy-1H-indole-2-carboxylic acid ethyl ester | 2.28 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)OC(F)(F)F)CC#N | C14H11F3N2O3
reactant | sodium-potassium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | diethylether | 70 mL | C(C)OCC | C4H10O
product | 8-Trifluoromethoxy-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole | 0.83 g, 45% | FC(OC1=CC=2C=C3N(C2C=C1)CCNC3)(F)F | C12H11F3N2O
